US05677464
(2R)-2-[4-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoyl chloride (1 g) was dissolved in 20 ml of dichloromethane, to which 2.5 ml of 1,3-difluorobenzene and 1.50 g of anhydrous aluminium chloride in a powdery form were added. The mixture was refluxed with heating for eight hours. After cooling, the reaction solution was poured into 50 ml of ice water and extracted from a mixture of 100 ml of ethyl acetate and 50 ml of diisopropyl ether. The extract was washed with 30 ml of 1N-hydrochloric acid and 30 ml of a saturated aqueous solution of sodium chloride successively, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (silica gel: 60 g, eluent; hexane:ethyl acetate:acetic acid=2:1:0.03) to give 0.77 g of 2-[(1R)-2-(2,4-difluorophenyl)-2-oxo-1-methylethyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (yield: 61%) as a pale yellow oil.

reactant | (2R)-2-[4-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoyl chloride | 1 g | FC(COC1=CC=C(C=C1)N1C=NN(C1=O)[C@@H](C(=O)Cl)C)(C(F)F)F | C14H12ClF4N3O3
reactant | aluminium chloride | 1.50 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-difluorobenzene | 2.5 ml | FC1=CC(=CC=C1)F | C6H4F2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[(1R)-2-(2,4-difluorophenyl)-2-oxo-1-methylethyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 0.77 g, yield: 61% | FC1=C(C=CC(=C1)F)C([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O | C20H15F6N3O3
